US06150391
Step 7: (1RS,3RS,5RS)-2-Benzyl-3-[{5-(imidazol-1-yl)-1H-indol-3-yl]methyl}-2,7-diazabicyclo[3.3.0]octane-7-carboxylic acid, ethyl ester
A mixture of (1RS,3RS,5RS)-2-benzyl-3-[2-(1,3-dioxan-2-yl)ethyl]-2,7-diazabicyclo[3.3.0]octane-7-carboxylic acid, ethyl ester (0.3081 g, 0.793 mmol) and 4-(imidazol-1-yl)phenylhydrazine, dihydrochloride (0.2055 g, 0.832 mmol) in 4% H2SO4 (aq) (10 mL) was heated at reflux under argon for 20 h whilst stirring magnetically. After cooling, the reaction mixture was made basic with 50% NaOH solution and extracted with EtOAc (4×25 mL). The combined organic extracts were dried (K2CO3) and evaporated in vacuo. The residue was purified by flash chromatography (silica gel, 2-4% MeOH/CH2Cl2) to give 0.1625 g (44%) of the title compound as a yellow gum. δH (250 MHz, CDCl3) 1.23-1.26 (3H, m), 1.56-1.68 (1H, m), 1.92 (1H, m), 2.56 (1H, m), 2.79 (1H, m), 3.14 (1H, dd), 3.17-3.78 (7H, m), 4.07-4.13 (3H, m), 7.10-7.34 (11H, m), 7.74 (1H, s), 8.24 (1H, br s). m/e (ES+) 470 (M+H)+.

reactant | (1RS,3RS,5RS)-2-benzyl-3-[2-(1,3-dioxan-2-yl)ethyl]-2,7-diazabicyclo[3.3.0]octane-7-carboxylic acid, ethyl ester | 0.793 mmol, 0.3081 g | C(C1=CC=CC=C1)N1C2CN(CC2CC1CCC1OCCCO1)C(=O)OCC | C22H32N2O4
reactant | 4-(imidazol-1-yl)phenylhydrazine, dihydrochloride | 0.832 mmol, 0.2055 g | Cl.Cl.N1(C=NC=C1)C1=CC=C(C=C1)NN
reactant | NaOH | [OH-].[Na+]
solvent | H2SO4 | 10 mL | OS(=O)(=O)O | H2O4S
product | (1RS,3RS,5RS)-2-Benzyl-3-[{5-(imidazol-1-yl)-1H-indol-3-yl]methyl}-2,7-diazabicyclo[3.3.0]octane-7-carboxylic acid, ethyl ester | 0.1625 g, 44% | C(C1=CC=CC=C1)N1C2CN(CC2CC1CC1=CNC2=CC=C(C=C12)N1C=NC=C1)C(=O)OCC | C28H31N5O2
